US07384934B2
(S)-2-piperazin-2-yl-ethanol
Dissolve (S)-2-(1,4-dibenzylpiperazin-2-yl)ethanol (11.7 g, 0.038 mol) in 380 mL of ethanol, add 10% palladium on carbon (3.7 g of wet reagent, 50% by weight) as a suspension in a few mL of ethanol. Add excess ammonium formate (16.8 g, 0.27 mol) all at once. Heat at reflux for 5 h, cool to room temperature and filter through a celite pad, washing well with ethanol. Concentrate filtrate in vacuo to provide the title compound (5 g, quantitative) as a cloudy residue. Use directly on the next step without further purification: mass spectrum (APCI): m/z=131.1 (M+1).

reactant | (S)-2-(1,4-dibenzylpiperazin-2-yl)ethanol | 0.038 mol, 11.7 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCO | C20H26N2O
reactant | ammonium formate | 0.27 mol, 16.8 g | C(=O)[O-].[NH4+]
solvent | ethanol | 380 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 3.7 g | [Pd] | Pd
product | (S)-2-piperazin-2-yl-ethanol | 5 g | N1[C@H](CNCC1)CCO | C6H14N2O
